US06777428B1
4-fluoro-2-iodobenzoic acid
To a 0° C. mixture of 2-amino-4-fluorobenzoic acid (1.18 g, 7.6 mmol) in 12N hydrochloric acid (2.3 mL) and water (13.7 mL) was added dropwise a solution of sodium nitrite (543 mg, 7.9 mmol) in water (1.2 mL). This resulting diazonium salt solution was stirred 10 min at 0° C. A solution of potassium iodide (1.9 g) in sulfuric acid (450 35 μL) and water (3.2 mL) was added dropwise to the 0° C. solution. The reaction mixture was heated to 100° C. for 2 h then cooled to room temperature. 10% sodium bisulfite solution was added and stirred. The precipitate was filtered, washed with water, air dried and recrystallized from toluene.

reactant | 2-amino-4-fluorobenzoic acid | 7.6 mmol, 1.18 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | sodium nitrite | 7.9 mmol, 543 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.9 g | [I-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 12N, 2.3 mL | Cl | ClH
solvent | water | 13.7 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
solvent | sulfuric acid | 35 μL | S(O)(O)(=O)=O | H2O4S
solvent | water | 3.2 mL | O | H2O
product | 4-fluoro-2-iodobenzoic acid | FC1=CC(=C(C(=O)O)C=C1)I | C7H4FIO2
